### ISSUE TITLE
[Insight] rintro ... rfl can eliminate an outer variable you intended to preserve

### ISSUE THREAD

**Issue by cameronfreer** [cameronfreer/lean4-skills#168]
## The insight

An `rfl` introduction pattern performs equality elimination, but does not express which variable name or orientation the remainder of the proof intends to preserve. When the equation relates a freshly introduced variable to one already fixed in the context, the **pre-existing** variable can be the one eliminated, and every hypothesis mentioning it is rewritten.

```lean
import Mathlib.Tactic

example (m : Nat) (P Q : Nat → Prop) (hP : P m) (hQ : Q m) :
    ∀ m', m' = m → P m' := by
  rintro m' rfl
  trace_state
  exact hP
```

State after `rintro m' rfl` — `m` is gone, and `hP`, `hQ` now refer to `m'`:

```
P Q : ℕ → Prop
m' : ℕ
hP : P m'
hQ : Q m'
⊢ P m'
```

The outer name is no longer usable in the rest of the proof:

```lean
example (m : Nat) (P : Nat → Prop) (hP : P m) : ∀ m', m' = m → P m' := by
  rintro m' rfl
  show P m       -- error: Unknown identifier `m`
  exact hP
```

## Recommended alternatives

Keep the context intact:

```lean
intro m' h
rw [h]
```

Or, when context-wide substitution is wanted but the *introduced* variable should be the one eliminated, name it explicitly:

```lean
example (m : Nat) (P : Nat → Prop) (hP : P m) : ∀ m', m' = m → P m' := by
  intro m' h
  subst m'
  exact hP
```

which preserves the outer variable:

```
m : ℕ
P : ℕ → Prop
hP : P m
⊢ P m
```

## Diagnostic

If a proof breaks several lines after an `rintro ... rfl` with a goal mentioning a variable you expected to remain abstract — or with "unknown identifier" on a name that is still present in the source — this is it.

## Suggested home

The `rcases`/`rintro` material in `references/tactics-reference.md`, or `references/tactic-patterns.md`.

## Environment

- Lean: 4.32.2
- Lake: 5.0.0-src+f3b06c7
- OS: Linux
- Plugin: lean4-skills 4.5.7

All snippets above were executed; the states and error text are verbatim.

---
*Drafted via [lean4-contribute](https://github.com/cameronfreer/lean4-skills)*
